US07713994B2
Following the procedure of Kato and Noda (Chem. Pharm. Bull. Jpn 22, 12, 2947-2952, 1974), to a 0.6 M solution of sodium ethoxide (50 mL, 30 mmol) is added acetoacetamide (3.5 g, 35 mmol), followed by methyl cinnamate (4.9 mL, 30 mmol). After 10 minutes of stirring at room temperature an additional volume of ethanol (40 mL) is added. The reaction mixture is stirred at room temperature for three weeks, then neutralized to pH 7 by the addition of 10% aqueous hydrochloric acid solution. The quenched mixture is then concentrated under reduced pressure to give a white suspension. The suspension is partitioned between ethyl acetate and water. The aqueous phase is extracted thrice with ethyl acetate. The combined extracts were washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, decanted, and concentrated under reduced pressure to give a white suspension, which is triturated with hot ethanol and then cooled in freezer. The white solid is collected by Buchner filtration, washed with ethanol, and dried under vacuum to give (3Z)-3-(1-hydroxyethylidene)-4-phenylpiperidine-2,6-dione as white powder (1.2 g, 17%).

reactant | sodium ethoxide | 30 mmol, 50 mL | [O-]CC.[Na+]
reactant | acetoacetamide | 35 mmol, 3.5 g | C(CC(=O)C)(=O)N | C4H7NO2
reactant | methyl cinnamate | 30 mmol, 4.9 mL | C(C=CC1=CC=CC=C1)(=O)OC | C10H10O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | (3Z)-3-(1-hydroxyethylidene)-4-phenylpiperidine-2,6-dione | 1.2 g, 17% | O\C(\C)=C\1/C(NC(CC1C1=CC=CC=C1)=O)=O | C13H13NO3
